* D:\Users\seth\Documents\Git\cc-led-driver\ltspice\Draft1.asc
C1 Zdamped 0 94.55n Rser=25.1m Lser=381p
C2 Zdamped 0 9.85µ Rser=3m Lser=1.2n
I1 0 Zdamped AC 1
C4 Z 0 94.55n Rser=25.1m Lser=381p
C5 Z 0 9.85µ Rser=3m Lser=1.2n
I2 0 Z AC 1
C6 Zdamped 0 560µ V=16 Irms=5.4 Rser=8m Lser=2n
.ac dec 1000 10 100Meg
.backanno
.end
