* D:\Users\seth\Documents\Git\cc-led-driver\ltspice\Draft2.asc
C1 N002 0 22.32µ Rser=3m Lser=1.2n
C2 N003 0 919n Rser=10.9m Lser=372p
C3 N003 0 919n Rser=10.9m Lser=372p
C4 N003 0 919n Rser=10.9m Lser=372p
C5 N003 0 919n Rser=10.9m Lser=372p
C6 N003 0 919n Rser=10.9m Lser=372p
C7 N003 0 919n Rser=10.9m Lser=372p
I1 N003 0 AC 1
C8 N002 0 22.32µ Rser=3m Lser=1.2n
R1 Z N002 {Rdamp}
R2 Z N001 20m
L1 0 N001 20n
L2 N003 Z 10n
.ac dec 1000 10 1G
.step param Rdamp list 1u 10m 20m 30m 40m 50m 100m 200m 1
.backanno
.end
