* D:\Users\seth\Documents\Git\cc-led-driver\ltspice\inverting_integrator_amp_phase_margin.asc
XU1 0 Vop- +24V -10V N001 TLV9302
V1 +24V 0 24
C1 N001 Vfb 10n
R1 Vout N001 100
R2 Vout Vfb 1Meg
V3 -10V 0 -10
R3 Vop- 0 10k
R4 Vout 0 68k
V2 Vfb Vop- AC 1
.inc tlv9302.lib
;tran 0 1 0 100u
.ac dec 1000 1 10Meg
.backanno
.end
